US20010011090A1
An n-butyl lithium-n-hexane solution (1.6 M) was added to a mixture of diisopropylamine and THF at −30° C. or below, followed by stirring at −30 to −50° C. for 15 minutes. Then, 2-propionylthiophene was added to the reaction solution at −60° C. or below, followed by stirring at −60° C. or below for 90 minutes. The reaction solution was added to a mixture of trifluoroacetic anhydride and THF, which was cooled at −60° C. After stirring at −60° C. for 1 hour, it was subjected to purification in the usual way to give a brown oil. Hydrazine hydrochloride and ethanol were added to this brown oil. After stirring at 50° C. for 2 hours, it was subjected to purification in the usual way to give 4-methyl-3-(2-thienyl)-5-trifluoromethyl-1H-pyrazole as a brown solid.

reactant | n-butyl lithium-n-hexane | 1.6 M | CCCCCC.C(CCC)[Li]
reactant | diisopropylamine | C(C)(C)NC(C)C | C6H15N
reactant | 2-propionylthiophene | C(CC)(=O)C=1SC=CC1 | C7H8OS
reactant | trifluoroacetic anhydride | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | Hydrazine hydrochloride | Cl.NN
solvent | ethanol | C(C)O | C2H6O
solvent | THF | C1CCOC1 | C4H8O
product | 4-methyl-3-(2-thienyl)-5-trifluoromethyl-1H-pyrazole | CC=1C(=NNC1C(F)(F)F)C=1SC=CC1 | C9H7F3N2S
